US04490369
(a) 1-(7,8-Dimethyl-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane
This compound was prepared analogous to Example 1(a) by reacting 7,8-dimethyl-1,3-dihydro-2H-3-benzazepin-2-one (m.p. 220°-224° C.) with 1-bromo-3-chloro-propane.

reactant | 7,8-dimethyl-1,3-dihydro-2H-3-benzazepin-2-one | CC1=CC2=C(CC(NC=C2)=O)C=C1C | C12H13NO
reactant | 1-bromo-3-chloro-propane | BrCCCCl | C3H6BrCl
product | 1-(7,8-Dimethyl-1,3-dihydro-2H-3-benzazepin-2-on-3-yl)-3-chloro-propane | CC1=CC2=C(CC(N(C=C2)CCCCl)=O)C=C1C | C15H18ClNO
